US08455665B2
(R)-3-[(S)-Hydroxy(tetrahydropyran-4-yl)methyl]pyrrolidine-1-carboxylic Acid t-Butyl Ester
To a solution of (R)-3-hydroxymethyl-pyrrolidine-1-carboxylic acid t-butyl ester (20.0 g, 99.4 mmol) in DCM (200 mL, 3100 mmol) was added TEMPO ((310 mg, 2.0 mmol) and potassium bromide (590 mg, 5.0 mmol). This mixture was cooled at 0° C. and a 1:1 mixture of 0.7 M NaOCl in water (140 mL) and saturated aqueous NaHCO3 solution (140 ml) was added dropwise over a period of 30 minutes. The resultant mixture was extracted with DCM (200 mL). The combined organic layers were washed with water (2×200 mL) and saturated aqueous NaCl (1×200 mL). The organic layer was dried over anhydrous Na2SO4, filtered and concentrated in vacuo to yield the title compound as an oil (15.5 g), which was used without further purification.

reactant | (R)-3-hydroxymethyl-pyrrolidine-1-carboxylic acid t-butyl ester | 99.4 mmol, 20.0 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)CO | C10H19NO3
reactant | DCM | 3100 mmol, 200 mL | C(Cl)Cl | CH2Cl2
reactant | TEMPO | CC1(CCCC(N1[O])(C)C)C | C9H18NO
reactant | NaOCl | 0.7 M | [O-]Cl.[Na+]
solvent | water | 140 mL | O | H2O
solvent | NaHCO3 | 140 ml | C(=O)(O)[O-].[Na+]
catalyst | potassium bromide | 5.0 mmol, 590 mg | [Br-].[K+]
product | (R)-3-[(S)-Hydroxy(tetrahydropyran-4-yl)methyl]pyrrolidine-1-carboxylic Acid t-Butyl Ester | 15.5 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)[C@H](C1CCOCC1)O | C15H27NO4
